US08053457B2
2-[4-(2-Amino-ethyl)-piperazin-1-yl]ethanol
2-{2-[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-ethyl}-isoindole-1,3-dione (370 mg, 1.2 mmol) is dissolved in EtOH (8 mL) and hydrazine hydrate (88 mL, 1.8 mmol) is added at RT. The reaction mixture is then refluxed for 3 h and allowed to cool to RT again. The precipitated product is isolated by filtration, washed subsequently with cold EtOH and dried in HV to give the title compound as a white powder. ES-MS: M+H=174.2. 1HNMR (MeOH-d4) δ 4.24 (bs, 2H), 3.41 (t, 2H), 2.62 (t, 2H), 2.54-2.50 (m, 2H), 2-39-2.201 (m, 10H).

reactant | 2-{2-[4-(2-Hydroxy-ethyl)-piperazin-1-yl]-ethyl}-isoindole-1,3-dione | 1.2 mmol, 370 mg | OCCN1CCN(CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C16H21N3O3
reactant | hydrazine hydrate | 1.8 mmol, 88 mL | O.NN
solvent | EtOH | 8 mL | CCO | C2H6O
product | 2-[4-(2-Amino-ethyl)-piperazin-1-yl]ethanol | NCCN1CCN(CC1)CCO | C8H19N3O
